US09447106B2
Step 2: 1′-Benzyl-2-oxo-6-(4-phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carboxamide
A solution of 1′-benzyl-2-oxo-6-(4-phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carbonitrile (200 mg, 0.42 mmol) in H3PO4 (15 mL) was heated to 120° C. for 2 hr. The solution was poured to water (10 mL) and extracted with EA (10 mL×3). The combined organic layers were dried over Na2SO4 and concentrated to give the crude product (120 mg, 58.0%) as an off-white solid. MS (ESI, m/e) [M+1]+ 493.9.

reactant | 1′-benzyl-2-oxo-6-(4-phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carbonitrile | 0.42 mmol, 200 mg | C(C1=CC=CC=C1)N1CCC2(CC1)C(NC=1N2N=C(C1C#N)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C29H25N5O2
reactant | water | 10 mL | O | H2O
solvent | H3PO4 | 15 mL | OP(=O)(O)O | H3O4P
product | 1′-Benzyl-2-oxo-6-(4-phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carboxamide | 120 mg, 58.0% | C(C1=CC=CC=C1)N1CCC2(CC1)C(NC=1N2N=C(C1C(=O)N)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C29H27N5O3
